US06492416B1
To a stirred solution of 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone (220 mg), 1,3-bis(diphenylphosphino)propane (24 mg) and palladium(II) acetate (6.1 mg) in 30 ml benzene, were added 2 M aqueous sodium carbonate (0.22 ml) and 4-methoxybenzeneboronic acid (90 mg). The reaction solution was kept at reflux for 24 hours. Then the solvent was removed under reduced pressure. The resulting residue was purified by a procedure similar to the purification method in Example 2 to yield 55 mg of 2,2-dimethyl-4-(4-methoxyphenyl)-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone as a solid. NMR: δ1.56 (s, 6H), 3.07 (s, 3H), 3.83 (s, 3H), 6.92 (d, J=8.7 Hz, 2H), 7.23 (d, J=9.0 Hz, 2H), 7.89(dd, J=8.7, 8.7 Hz, 4H). IR (cm−1): 2925, 1697, 1592, 1149, 1031, 912, 745.

reactant | 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 220 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O | C13H13BrO4S
reactant | 1,3-bis(diphenylphosphino)propane | 24 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | sodium carbonate | 2 M, 0.22 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methoxybenzeneboronic acid | 90 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
catalyst | palladium(II) acetate | 6.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,2-dimethyl-4-(4-methoxyphenyl)-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 55 mg | CC1(OC(=C(C1=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)S(=O)(=O)C)C | C20H20O5S
